US06057369
2-[(3,4-Dimethoxyphenyl)sulfonyl]-6-phenylhexanoic acid
A solution of methyl 2-[(3,4-dimethoxyphenyl)sulfonyl]-6-phenylhexanoate (1.3 g, 3.2 mmol) and 10% sodium hydroxide (15 mL) in ethanol (15 mL) is heated under reflux for 20 minutes. The solution is cooled and is added to aqueous HCl and is extracted with ether. The organic layer is washed with water and is dried over MgSO4. The solvent is removed in vacuo and the residue is dissolved in ethyl acetate and the solution is diluted with hexane to precipitate 2-[(3,4-dimethoxyphenyl)sulfonyl]-6-phenylhexanoic acid (0.5 g, 40%): m.p. 114-16° C. Anal. (C20H24O6S) C, H: 1H-NMR (300 MHz, CDCl3) δ (TMS) 1.28-1.48 (m, 2H), 1.54-1.70 (m, 2H), 1.87-2.05 (m, 2H), 2.48-2.64 (m, 2H), 3.88 (d, 7H), 6.97 (d, 1H), 7.12-7.20 (m, 2H), 7.20-7.30 (m, 4H), 7.40-7.50 (m, 1H).

reactant | methyl 2-[(3,4-dimethoxyphenyl)sulfonyl]-6-phenylhexanoate | 3.2 mmol, 1.3 g | COC=1C=C(C=CC1OC)S(=O)(=O)C(C(=O)OC)CCCCC1=CC=CC=C1 | C21H26O6S
reactant | sodium hydroxide | 15 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-[(3,4-Dimethoxyphenyl)sulfonyl]-6-phenylhexanoic acid | COC=1C=C(C=CC1OC)S(=O)(=O)C(C(=O)O)CCCCC1=CC=CC=C1 | C20H24O6S
